US07981903B2
1-[3-(Methyloxy)-4-nitrophenyl]-4-(methylsulfonyl)piperazine (1.09 g, 3.46 mmol) was suspended in 5 mL THF and 10 mL MeOH in a 100 mL round bottom flask. NiCl2-6H2O (0.247 g, 1.04 mmol) was added, followed by slow addition of NaBH4 (0.392 g, 10.38 mmol). The reaction mixture was adsorbed on SiO2 and purified via column chromatography to afford 2-(methyloxy)-4-[4-(methylsulfonyl)-1-piperazinyl]aniline. (0.925 g, 3.24 mmol, 93%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.91 (s, 3 H) 2.99-3.07 (m, 4 H) 3.19-3.27 (m, 4 H) 3.75 (s, 3 H) 4.28 (s, 2 H) 6.33 (dd, J=8.39, 2.43 Hz, 1 H) 6.49-6.58 (m, 2 H). ESIMS M+H)+=285.

reactant | 1-[3-(Methyloxy)-4-nitrophenyl]-4-(methylsulfonyl)piperazine | 3.46 mmol, 1.09 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)S(=O)(=O)C | C12H17N3O5S
reactant | MeOH | 10 mL | CO | CH4O
reactant | NaBH4 | 10.38 mmol, 0.392 g | [BH4-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(methyloxy)-4-[4-(methylsulfonyl)-1-piperazinyl]aniline | COC1=C(N)C=CC(=C1)N1CCN(CC1)S(=O)(=O)C | C12H19N3O3S
